US04058554
A. PREPARATION OF MAGNESIUM BIS(METHYL MALEATE)
Fifty grams of maleic anhydride is dissolved in 200 ml methanol and magnesium hydroxide is added to a pH of 7.3. The solution is filtered, the methanol is distilled off and the product is dried under vacuum. An NMR analysis of the product taken using potassium acid phthalate as the standard indicates that the product contains 78.7% magnesium bis(methyl maleate).

reactant | maleic anhydride | Fifty grams | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | magnesium hydroxide | [OH-].[Mg+2].[OH-]
reactant | methanol | 200 ml | CO | CH4O
product | MAGNESIUM BIS(METHYL MALEATE) | C/C(/C(=O)[O-])=C/C(=O)[O-].C/C(/C(=O)[O-])=C/C(=O)[O-].[Mg+2].[Mg+2] | InChI=1S/2C5H6O4.2Mg/c2*1-3(5(8)9)2-4(6)7;;/h2*2H,1H3,(H,6,7)(H,8,9);;/q;;2*+2/p-4/b2*3-2-;;
